US07547804B2
Step 2: Synthesis of (2-Methoxyethyl)methyl-{4-nitro-3-[2-(3-trifluoromethylphenyl)ethoxy]-phenyl}amine:
Dissolved 4-fluoro-1-nitro-2-[2-(3-trifluoromethylphenyl)ethoxy]benzene (200 mg, 0.61 mmol) in DMF (1 mL) and added N-(2-methoxyethyl)methylamine (270 mg, 3.04 mmol). Reaction Mixture was warmed to 60° C. and stirred for 18 h. The reaction mixture was poured into H2O and extracted with EtOAc (2×). The combined organics were washed with brine and dried over Na2SO4. The title compound was carried on crude to the next step.

reactant | 4-fluoro-1-nitro-2-[2-(3-trifluoromethylphenyl)ethoxy]benzene | 0.61 mmol, 200 mg | FC1=CC(=C(C=C1)[N+](=O)[O-])OCCC1=CC(=CC=C1)C(F)(F)F | C15H11F4NO3
reactant | N-(2-methoxyethyl)methylamine | 3.04 mmol, 270 mg | COCCNC | C4H11NO
reactant | H2O | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (2-Methoxyethyl)methyl-{4-nitro-3-[2-(3-trifluoromethylphenyl)ethoxy]-phenyl}amine | COCCN(C1=CC(=C(C=C1)[N+](=O)[O-])OCCC1=CC(=CC=C1)C(F)(F)F)C | C19H21F3N2O4
